US07547716B2
(1) Preparation of N-[5-[[[(1-naphthalenyl)methyl]amino]sulfonyl]-1-naphthalenyl]acetamide.
1-Naphthylmethylamine (174 mg, 1.1 mmol) was dissolved in tetrahydrofuran (10 ml), and 5-(acetylamino)-1-naphthalenesulfonyl chloride (284 mg, 1 mmol) was added under ice cooling and stirring. Then, triethylamine (0.17 mL, 1.2 mmol) was added and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed successively with aqueous sodium hydrogen carbonate, water, and saturated brine, and after the layer was dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was crystallized by a mixed solvent of ethyl acetate/diisopropyl ether to give the title compound as a light brown crystal (325 mg, 80.4%).

reactant | 1-Naphthylmethylamine | 1.1 mmol, 174 mg | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | 5-(acetylamino)-1-naphthalenesulfonyl chloride | 1 mmol, 284 mg | C(C)(=O)NC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl | C12H10ClNO3S
reactant | triethylamine | 1.2 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[5-[[[(1-naphthalenyl)methyl]amino]sulfonyl]-1-naphthalenyl]acetamide | 325 mg, 80.4% | C1(=CC=CC2=CC=CC=C12)CNS(=O)(=O)C1=C2C=CC=C(C2=CC=C1)NC(C)=O | C23H20N2O3S
